US04755212
Preparation of 2-benzylthio-6-chloro-7-hydroxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine
A solution of 16 g (77 mmol) of 3-amino-5-benzylthio-1,2,4-triazole and 10.6 g (77 mmol) of ethyl 2-chloroacetoacetate in 150 ml of glacial acetic acid was heated at 100° C. for 17 hours. Upon cooling to room temperature the solid which separated was collected by filtration. The filtrate was diluted with ice water to separate an additional quantity of solid. The solids were combined and dried to yield 14.0 g (60%) of the desired product as a solid, m.p. 258°-260° C. IR and 1H NMR were in agreement with the assigned structure.

reactant | 3-amino-5-benzylthio-1,2,4-triazole | 77 mmol, 16 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | ethyl 2-chloroacetoacetate | 77 mmol, 10.6 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-6-chloro-7-hydroxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine | 14.0 g, 60% | C(C1=CC=CC=C1)SC1=NN2C(N=C(C(=C2O)Cl)C)=N1 | C13H11ClN4OS
